US04038065
b. 1-(2-ethylhexyl)-3-cyano-6-methylpyrid-2-one
N-(2-ethylhexyl) cyanoacetamide (60.4 g., 0.30 mole), 4-methoxy-3-butene-2-one (60.0 g., 0.60 mole), methylcello-solve (250 ml.) and 1,4-diazobicyclo [2.2.2.] octane (6.0 g.) are heated at reflux for 4 hours. Additional 4-methoxy-3-butene-2-one (30 g.) is added and reflux is continued for another 2 hours. The solvent is removed in vacuo to give an oil. The oil is dissolved in methylene chloride and extracted first with 2N--HCl (150 ml.) and then with water (2 × 250 ml.). The organic layer is dried over sodium sulfate, filtered and evaporated to dryness to give a 90% yield of crude product which is characterized by nmr and ir analysis.

reactant | N-(2-ethylhexyl) cyanoacetamide | 0.30 mole, 60.4 g | C(C)C(CNC(CC#N)=O)CCCC | C11H20N2O
reactant | 4-methoxy-3-butene-2-one | 0.60 mole, 60.0 g | COC=CC(C)=O | C5H8O2
reactant | methylcello-solve | 250 ml | COCCO | C3H8O2
reactant | octane | 6.0 g | CCCCCCCC | C8H18
reactant | 4-methoxy-3-butene-2-one | 30 g | COC=CC(C)=O | C5H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(2-ethylhexyl)-3-cyano-6-methylpyrid-2-one | 90% yield | C(C)C(CN1C(C(=CC=C1C)C#N)=O)CCCC | C15H22N2O
